US05576321
Preparation of 3-[4-(6,7-dichloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)propane
The title compound was prepared in a fashion similar to that described in Example 192 from 6,7-dichloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.70 g, 2.6 mmol), 1-chloro-3-(1H-indole-4-oxy)propane (0.60 g, 2.9 mmol) and potassium carbonate (0.48 g, 3.5 mmol). The product was isolated as a white granular solid. Yield 220 mg (19%). mp 224°-227° C. FDMS m/e=439 (M+ of free base).

reactant | 6,7-dichloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.6 mmol, 0.70 g | ClC1=CC=C2C(=CNC2=C1Cl)C=1CCNCC1 | C13H12Cl2N2
reactant | 1-chloro-3-(1H-indole-4-oxy)propane | 2.9 mmol, 0.60 g | ClCCCOC=1C=2C=CNC2C=CC1 | C11H12ClNO
reactant | potassium carbonate | 3.5 mmol, 0.48 g | C([O-])([O-])=O.[K+].[K+]
product | 3-[4-(6,7-dichloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)propane | ClC1=CC=C2C(=CNC2=C1Cl)C=1CCN(CC1)CCCOC1=C2C=CNC2=CC=C1 | C24H23Cl2N3O
